US07700609B2
2-(3-Methoxyphenyl)-6,7-dihydro-5H-benzo[b]thiophen-4-one
To 2-bromo-6,7-dihydro-5H-benzo[b]thiophen-4-one (5 g, 21.74 mmol) was successively added 3-methoxyphenol boronic acid (3.63 g, 23.92 mmol), 2M Na2CO3(aq) (43.5 mL, 86.98 mmol), Pd(PPh3)4 (251mg, 0.22 mmol), 3:4 EtOH/H2O (37.5 mL) and DME (62.5 mL). The reaction mixture was degassed and heated to reflux for 12 hours. EtOAc (250 mL) was added and the crude reaction mixture was washed with water (2×100 mL). The organic layer was dried over magnesium sulphate, filtered and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with EtOAc:hexanes (20:80) to give the title compound as an off-white solid in 95% yield. MS (ES+) 259. δH (d6 DMSO) 2.13 (2H, quint.), 2.50 (2H, m), 3.05 (2H, t), 3.81 (3H, s), 6.91 (1H, m), 7.20-7.22 (2H, m), 7.34 (1H, m), 7.67 (1H, s).

reactant | 2-bromo-6,7-dihydro-5H-benzo[b]thiophen-4-one | 21.74 mmol, 5 g | BrC1=CC2=C(S1)CCCC2=O | C8H7BrOS
reactant | 3-methoxyphenol boronic acid | 23.92 mmol, 3.63 g | B(O)O.COC=1C=C(C=CC1)O
reactant | Na2CO3 | 86.98 mmol, 2M, 43.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | EtOH H2O | 37.5 mL | CCO.O
catalyst | Pd(PPh3)4 | 0.22 mmol, 251mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 62.5 mL | COCCOC | C4H10O2
product | 2-(3-Methoxyphenyl)-6,7-dihydro-5H-benzo[b]thiophen-4-one | 95% yield | COC=1C=C(C=CC1)C1=CC2=C(S1)CCCC2=O | C15H14O2S
